US08022062B2
N-(2,2-Dimethoxy-ethyl)-2,2,2-trifluoro-N-[2-(2-fluoro-5-methoxy-phenyl)-ethyl]-acetamide:
Dissolve 2-(2-fluoro-5-methoxyphenyl)-ethylamine (16 g, 95 mmol) and dimethoxy acetaldehyde (60% aqueous, 21.5 mL, 142 mmol) in methanol (500 mL). After 1.5 h, cautiously add sodium borohydride (5.39 g, 142 mmol) at 0° C. and then stir at ambient temperature for 3 h. Add acetone and evaporate the mixture. Dissolve the residue in DCM (250 mL), cool to 0° C. and add triethylamine (26.5 mL, 190 mmol) and trifluoroacetic anhydride (20.1 mL, 142 mmol). After 30 min, wash the mixture with 1N aqueous HCl (4×100 mL), brine and saturated aqueous NaHCO3. Dry the organic layer over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel to give the desired intermediate (19.7 g, 59%). MS (ES+) m/z: 322 (M-OMe)+.

reactant | 2-(2-fluoro-5-methoxyphenyl)-ethylamine | 95 mmol, 16 g | FC1=C(C=C(C=C1)OC)CCN | C9H12FNO
reactant | dimethoxy acetaldehyde | 142 mmol, 21.5 mL | COC(C=O)OC | C4H8O3
reactant | sodium borohydride | 142 mmol, 5.39 g | [BH4-].[Na+]
reactant | triethylamine | 190 mmol, 26.5 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 142 mmol, 20.1 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methanol | 500 mL | CO | CH4O
product | N-(2,2-Dimethoxy-ethyl)-2,2,2-trifluoro-N-[2-(2-fluoro-5-methoxy-phenyl)-ethyl]-acetamide | 19.7 g, 59% | COC(CN(C(C(F)(F)F)=O)CCC1=C(C=CC(=C1)OC)F)OC | C15H19F4NO4
